US07666879B2
D. 4-tert-Butyl-6-morpholin-4-ylmethyl-pyridin-2-ylamine
Suspend (6-amino-4-tert-butyl-pyridin-2-yl)-morpholin-4-yl-methanone (6.02 g, 22.86 mmol) in 40 mL anhydrous THF. Add 2 M solution of BH3-Me2S complex in THF (34.3 mL, 68.6 mmol, 3 eq) dropwise at room temperature. On BH3-Me2S/THF solution addition, the suspension turns clear and bright yellow after complete addition. Stir overnight at room temperature under nitrogen atmosphere. Carefully quench reaction with slow addition of MeOH (24 mL), stir 3 hours at 60° C. and concentrate in vacuo. Purify the residue on 300 g silica cartridge with a gradient of 0→2% MeOH in dichloromethane over 2 minutes, followed by 2→10% MeOH in dichloromethane over 40 minutes. Concentrate and dry clean fractions to give 2.0 g (35%) of the title compound as a white solid. LCMS (ES) m/z 250 (M+1).

reactant | (6-amino-4-tert-butyl-pyridin-2-yl)-morpholin-4-yl-methanone | 22.86 mmol, 6.02 g | NC1=CC(=CC(=N1)C(=O)N1CCOCC1)C(C)(C)C | C14H21N3O2
reactant | MeOH | 24 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 68.6 mmol, 34.3 mL, 3 eq | C1CCOC1 | C4H8O
product | 4-tert-Butyl-6-morpholin-4-ylmethyl-pyridin-2-ylamine | 2.0 g, 35% | C(C)(C)(C)C1=CC(=NC(=C1)CN1CCOCC1)N | C14H23N3O
